US08030346B2
Preparation of Ethyl 2-bromo-7-hydroxy-3,4-dimethyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxylate
Methyl 5-bromo-4-methyl-3-(2,2,2-trifluoroacetamido)thiophene-2-carboxylate. At 0° C., DIEA (4.32 mL, 24.8 mmol) was added dropwise to a solution of methyl 3-amino-5-bromo-4-methylthiophene-2-carboxylate (6.20 g, 24.8 mmol) in DCM (100 mL), followed by dropwise addition of TFAA (3.45 mL, 24.8 mmol). The mixture was stirred at room temperature for 18 hours, diluted with CHCl3, washed with water, dried over MgSO4, and evaporated. The crude product was purified by flash chromatography using EtOAc/hexanes to give the title compound. MS (ESI) m/z: Calculated; 346.1: Observed; 345.9. 1H NMR (300 MHz, CDCl3) δ ppm 9.62 (1H, br. s.), 3.89 (3H, s), 2.15 (3H, m).

reactant | Methyl 5-bromo-4-methyl-3-(2,2,2-trifluoroacetamido)thiophene-2-carboxylate | BrC1=C(C(=C(S1)C(=O)OC)NC(C(F)(F)F)=O)C | C9H7BrF3NO3S
reactant | DIEA | 24.8 mmol, 4.32 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 3-amino-5-bromo-4-methylthiophene-2-carboxylate | 24.8 mmol, 6.20 g | NC1=C(SC(=C1C)Br)C(=O)OC | C7H8BrNO2S
reactant | TFAA | 24.8 mmol, 3.45 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-bromo-7-hydroxy-3,4-dimethyl-5-oxo-4,5-dihydrothieno[3,2-b]pyridine-6-carboxylate | BrC1=C(C=2N(C(C(=C(C2S1)O)C(=O)OCC)=O)C)C | C12H12BrNO4S
